US07700595B2
A solution of 1-(2-fluoro-3-trifluoromethyl-phenyl)-3-phenyl-propan-1-one (4.8 g, 16.2 mmol) and ammonium hydroxide (150 ml of 30% solution) in DME (50 ml) was heated to 140° C. in a steel pressure reactor. After 3 hr, the reaction was cooled to 0° C., the steel pressure reactor was opened and the reaction was partitioned between water and EtOAc. The organic layer was dried (MgSO4) and concentrated to give 1-(2-amino-3-trifluoromethyl-phenyl)-3-phenyl-propan-1-one as a yellow oil (4.3 g). MS (ES) m/z 293.9.

reactant | 1-(2-fluoro-3-trifluoromethyl-phenyl)-3-phenyl-propan-1-one | 16.2 mmol, 4.8 g | FC1=C(C=CC=C1C(F)(F)F)C(CCC1=CC=CC=C1)=O | C16H12F4O
reactant | ammonium hydroxide | 150 ml | [OH-].[NH4+]
solvent | DME | 50 ml | COCCOC | C4H10O2
product | 1-(2-amino-3-trifluoromethyl-phenyl)-3-phenyl-propan-1-one | 4.3 g | NC1=C(C=CC=C1C(F)(F)F)C(CCC1=CC=CC=C1)=O | C16H14F3NO
